US06180635B2
N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}trifluoromethanesulfonamide
5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (48 mg) and triethylamine (100 μl) were dissolved in dichloromethane 5 ml and then cooled to −78°. Trifluoromethanesulfonic anhydride (50 μl) in dichloromethane (2 ml) was added dropwise and the solution was stirred for 5 minutes. Ammonia in ethanol (1M, 0.5 ml) was added and the reaction mixture was allowed to warm to ambient temperature. Water was added and the phases were separated. The aqueous phase was extracted twice with dichloromethane, the organic phases were combined and dried, filtered and evaporated. Purification by HPLC (ethyl acetate:isohexane 5-40:95-60) gave the title compound (23 mg).

reactant | 5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 48 mg | NCCCSC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H29N3O2S2
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 50 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Ammonia | N | H3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethanol | 1M, 0.5 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}trifluoromethanesulfonamide | 23 mg | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SCCCNS(=O)(=O)C(F)(F)F)CC(C)C)=O | C26H28F3N3O4S3
